US08389555B2
STEP F: Preparation of 1-(4-phenylpiperazin-1-yl)-5-(propyl-(4,5,6,7-tetrahydrobenzothiazol-6-yl)amino)pentan-1-one
A solution of 395 mg (2 mmol) propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine and 781 mg (3 mmol) 5-oxo-5-(4-phenylpiperazin-1-yl)pentanal in 1,2-dichloroethane (20 mL) is stirred for about 30 minutes. Then 0.75 g (3 mmol) of sodium triacetoxyborohydride is added and the mixture is stirred overnight. After hydrolysation with 30 mL of 1N aqueous NaOH solution the organic phase is separated, dried over sodium sulfate and concentrated in vacuum. The crude product obtained is purified via column chromatography on silica gel.

reactant | propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine | 2 mmol, 395 mg | C(CC)NC1CC2=C(N=CS2)CC1 | C10H16N2S
reactant | 5-oxo-5-(4-phenylpiperazin-1-yl)pentanal | 3 mmol, 781 mg | O=C(CCCC=O)N1CCN(CC1)C1=CC=CC=C1 | C15H20N2O2
reactant | sodium triacetoxyborohydride | 3 mmol, 0.75 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 1-(4-phenylpiperazin-1-yl)-5-(propyl-(4,5,6,7-tetrahydrobenzothiazol-6-yl)amino)pentan-1-one | Yield: 67% | C1(=CC=CC=C1)N1CCN(CC1)C(CCCCN(C1CC2=C(N=CS2)CC1)CCC)=O | C25H36N4OS
